US06887877B2
To a stirred solution of 2-Amino-3-phenyl-propionic acid tert-butyl ester (50.6 mg, 0.229 mmol) in ethanol (1 mL), were added 3-Bromo-thiophene-2-carbaldehyde (50 mg, 0.208 mmol.) and acetic acid (21 μL). The reaction mixture was stirred at room temperature under nitrogen for 2 hrs as the progress of imine formation was monitored by TLC. Then, sodium cyanoborohydride (20 mg, 0.312 mmol) was added. The mixture was acidified with sodium bicarbonate and then extracted with dichloromethane. After removal of the solvent, the crude product was purified by silica plate (hexane/ethylacetate 90%:10%) to give 2-[(3-Bromo-thiophen-2-ylmethyl)-amino]-3-phenyl-propionic acid tert-butyl ester in 80% yield: 1H NMR (Varian 400 MHz, CDCl3) δ7.23 (m, 6H, ArH), 6.90 (d, 1H, J=5.3 Hz, thiophenH), 4.00 (d, 1H, J=14.6 Hz, NCH2), 3.85 (d, 1H, J=14.6 Hz, NCH2), 3.48 (m, 1H, CHCH2), 3.00 (m, 2H, CHCH2), 1.37 (s, 9H, tBu).

reactant | 2-Amino-3-phenyl-propionic acid tert-butyl ester | 0.229 mmol, 50.6 mg | C(C)(C)(C)OC(C(CC1=CC=CC=C1)N)=O | C13H19NO2
reactant | 3-Bromo-thiophene-2-carbaldehyde | 0.208 mmol, 50 mg | BrC1=C(SC=C1)C=O | C5H3BrOS
reactant | sodium cyanoborohydride | 0.312 mmol, 20 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | acetic acid | 21 μL | C(C)(=O)O | C2H4O2
product | 2-[(3-Bromo-thiophen-2-ylmethyl)-amino]-3-phenyl-propionic acid tert-butyl ester | 80% yield | C(C)(C)(C)OC(C(CC1=CC=CC=C1)NCC=1SC=CC1Br)=O | C18H22BrNO2S
